US04032676
N-(2,3,4,5-tetrahydroxy-pentyl)-L-(-)-tyrosine
The product was made from D-ribose and L-(-)-tyrosine using Raney nickel as a catalyst and heating for 2 hours to 50° C. and for 4 hours to 70° C. The reaction product was yellowish, wax-like mass with an RF -value of 0.65 (determined as indicated under Example M).

reactant | D-ribose | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | L-(-)-tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
catalyst | Raney nickel | [Ni] | Ni
product | N-(2,3,4,5-tetrahydroxy-pentyl)-L-(-)-tyrosine | OC(CN[C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(C(CO)O)O | C14H21NO7
